US06686352B2
a) 5,7-Dihydro-2-[(4-Methoxyphenyl)methyl]-6H-pyrimido[5,4-d][1]benzazepine-6-one
Analogous to Scheme 1, from 4-[(dimethylamino)methylene]-3,4-dihydro-1H-benzazepine-2,5-dione and 2-(4-methoxyphenyl)-acetamidine hydrochloride. Yield: 31%. White solid, m/z (ISP) 332 (MH).

reactant | 4-[(dimethylamino)methylene]-3,4-dihydro-1H-benzazepine-2,5-dione | CN(C)C=C1CC(NC2=C(C1=O)C=CC=C2)=O | C13H14N2O2
reactant | 2-(4-methoxyphenyl)-acetamidine hydrochloride | Cl.COC1=CC=C(C=C1)CC(=N)N
product | 5,7-Dihydro-2-[(4-Methoxyphenyl)methyl]-6H-pyrimido[5,4-d][1]benzazepine-6-one | Yield: 31% | COC1=CC=C(C=C1)CC=1N=CC=2CC(NC3=C(C2N1)C=CC=C3)=O | C20H17N3O2
